Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / citrus fruits / hydrochlorothiazide / egg
 
Attending: ___.
 
Chief Complaint:
Leukocytosis, elevated troponin
 
Major Surgical or Invasive Procedure:
___: Cardiac catheterization

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  ___ F w/ hx of polymyositis on 
chronic prednisone (5mg), HFpEF, HTN presenting for weakness. 
Family states that she has been getting weaker over the last 
week-2 weeks. Daughter normally helps at home and has needed to 
give increased aid when helping the patient transfer, walk 
around, bathe, etc. Also c/o DOE that has been ongoing for 
several months. Denies exertional CP, denies SOB at rest. Of 
note, her chronic prednisone was decreased approx. ___ weeks ago 
to 4 mg per daughter, and this was approximately the time she 
noted worsening weakness. In review of infectious etiology, she 
states she has had a cough last week that resolved. She had 2 
episodes of diarrhea last week and the week prior but no ongoing 
loose stools. Does report foul smelling urine but denies 
frequency, urgency, dysuria, hematuria. No HA, sore throat, 
rhinorrhea. Went to neurology today and found to have a large 
leukocytosis. Referred to ED for evaluation. 

In the ED, initial vitals:  97.7 78 156/83 158/83 100% RA 
 - Exam notable for:  Diminished lung sounds at base. RRR. Abd 
benign. No edema
 - Labs notable for:  WBC 30.6->33.8 (diff pending), H/h 
12.9/40.7, plt 495, lactate 2.7, chem 10 notable for BUN 42 
otherwise wnl, 
 - Imaging notable for:  CXR: Increased sclerosis at the 
superior aspect of the left humeral head, avascular necrosis not 
excluded.
 - EKG is concerning for ischemia with STD in 1, AVL, biphasic 
ST segments in V1-V2, and TWI in V3-V4 as well as isolated <1 mm 
STE in III. Repeat EKG with dynamic changes with rising STE in 
V2-3. Still asymptomatic. 
- Patient was given: Aspirin 324 mg, IV Heparin 2900 UNIT, IV 
Heparin  drip.
- Patient was evaluated by cardiology who recommended: admit to 
___, stress testing in AM, formal echo in AM, no need for 
heparin at this time, send troponin, if elevated, would start 
heparin.
 - Vitals prior to transfer:  98.4 75 147/71  18  99% RA 

On arrival to the floor, pt denies chest pain, denies SOB, 
denies nausea.

REVIEW OF SYSTEMS:  PER HPI
 
Past Medical History:
- Polymyositis in remission, followed by Dr. ___. 
Developed asymmetric progressive ___ weakness in ___, in ___ 
had elevated CK, muscle biopsy consistent with polymyositis. 
Most recently on 5mg prednisone daily for maintenance
- Prior concern for memory loss and imaging findings of 
ventriculomegaly and white matter disease. Not thought 
consistent with NPH by her Neurologist (Dr. ___. She 
has had B12, folate, TSH checked.  
- Massive L rotator cuff tear, s/p steroid injection ___  
- L hip arthritis
- L1 vertebral compression fx
- Enlarged lymph node in groin  
- HTN  
- glaucoma   
- eczema  
- atypical moles, for which pt has refused biopsy
- NSTEMI s/p ___ 2 ___ (added this admission)
- Leukocytosis of unknown etiology (added this admission)
 
Social History:
___
Family History:
Family history of hypertension, no h/o MI, CAD, DM, HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: T 97.9 BP 158/74 HR 69 RR 18 96% 2L NC
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry mm, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.

DISCHARGE PHYSICAL EXAM:
Vitals: 98.2 62 121/71 18 99% ra
I/O= 550/650 (24hrs)  
Weight: 45.0 from 44.9 from 45.1 from 45.8
Telemetry: Normal sinus rhythm

General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry mm, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no cyanosis or edema  
Skin: Without rashes or lesions  
Neuro: A&Ox3. Grossly intact.
 
Pertinent Results:
===============================
ADMISSION/IMPORTANT LABS
===============================
___ 10:55AM BLOOD WBC-30.6*# RBC-4.49 Hgb-12.1 Hct-38.9 
MCV-87 MCH-26.9 MCHC-31.1* RDW-14.5 RDWSD-45.1 Plt ___
___ 08:50PM BLOOD Neuts-88* Bands-1 Lymphs-4* Monos-4* 
Eos-1 Baso-0 ___ Metas-2* Myelos-0 AbsNeut-30.08* 
AbsLymp-1.35 AbsMono-1.35* AbsEos-0.34 AbsBaso-0.00*
___ 08:50PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-3+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Spheroc-OCCASIONAL 
Ovalocy-3+ Pencil-1+ Tear Dr-OCCASIONAL
___ 07:45AM BLOOD ___ PTT-54.2* ___
___ 10:55AM BLOOD UreaN-42* Creat-0.7 Na-136 K-4.6 Cl-98 
HCO3-22 AnGap-21*
___ 08:19PM BLOOD ALT-34 AST-49* AlkPhos-62 TotBili-0.4
___ 10:55AM BLOOD CK(CPK)-29
___ 08:19PM BLOOD Lipase-65*
___ 08:19PM BLOOD cTropnT-0.30*
___ 07:45AM BLOOD CK-MB-3 cTropnT-0.30*
___ 01:30PM BLOOD cTropnT-0.29*
___ 07:50AM BLOOD CK-MB-2 cTropnT-0.22*
___ 10:40AM BLOOD CK-MB-2 cTropnT-0.16*
___ 06:45AM BLOOD CK-MB-2 cTropnT-0.14*
___ 12:15AM BLOOD CK-MB-2 cTropnT-0.15*
___ 04:33AM BLOOD cTropnT-0.17*
___ 12:40PM BLOOD cTropnT-0.15*
___ 07:45AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.6
___ 08:19PM BLOOD Albumin-4.0
___ 07:45AM BLOOD Cortsol-1.4*
___ 06:45AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative HAV Ab-Negative
___ 06:45AM BLOOD HCV Ab-Negative
___ 03:07AM BLOOD ___ pO2-53* pCO2-37 pH-7.42 
calTCO2-25 Base XS-0 Comment-GREEN TOP
___ 07:50AM BLOOD ___ pO2-166* pCO2-25* pH-7.52* 
calTCO2-21 Base XS-0 Comment-GREEN TOP
___ 08:05PM BLOOD Lactate-2.7*
___ 03:07AM BLOOD Lactate-1.8
___ 07:50AM BLOOD Lactate-1.8

==============================
MICROBIOLOGY
==============================
___ 10:15 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 7:48 pm BLOOD CULTURE
   Blood Culture, Routine (Pending): 

==============================
IMAGING
==============================
CXR ___: No acute cardiopulmonary process.
Chronic right shoulder dislocation.
Increased sclerosis at the superior aspect of the left humeral 
head, avascular
necrosis not excluded.

TTE ___: The left atrium and right atrium are normal in cavity 
size. No atrial septal defect is seen by 2D or color Doppler. 
Normal left ventricular wall thickness, cavity size, and 
regional/global systolic function (biplane LVEF = 60 %). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. Physiologic mitral regurgitation is seen (within 
normal limits). There is mild pulmonary artery systolic 
hypertension. Significant pulmonic regurgitation is seen. There 
is no pericardial effusion. 
IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. Mild 
pulmonary artery systolic hypertension. 
Compared with the prior study (images reviewed) of ___, 
the findings are similar.

Cath ___: 
FINDINGS:
Hemodynamics:
State: Baseline
State: Intervention
State: Intervention
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD has a focal 80% proximal stenosis.
The ___ Diagonal has a 50% proximal stenosis.
* Circumflex
The Circumflex is free of significant disease.
* Right Coronary Artery
The RCA has an 80% mid stenosis just prior to high PDA takeoff.
The posterolateral is occluded with left to right collaterals.
Impressions:
Successful DES of LAD with 3.0 by 12 Promus postdilated to 3.25.
Successful DES of mid RCA with 2.25 by 12 Promus.
Occluded posterolateral branch of RCA.
Recommendations
ASA and plavix

==================================
DISCHARGE LABS
==================================
___ 04:33AM BLOOD WBC-35.5* RBC-4.05 Hgb-11.2 Hct-35.2 
MCV-87 MCH-27.7 MCHC-31.8* RDW-14.6 RDWSD-45.9 Plt ___
___ 04:33AM BLOOD Glucose-102* UreaN-21* Creat-0.6 Na-132* 
K-4.4 Cl-99 HCO3-23 AnGap-14
___ 04:33AM BLOOD ALT-121* AST-19 AlkPhos-74 TotBili-0.5
___ 04:33AM BLOOD Calcium-8.6 Phos-3.7 Mg-2.3
 
Brief Hospital Course:
==================================
BRIEF HOSPITAL COURSE
==================================

Ms. ___ is a ___ yo female h/o HFpEF, polymyositis on chronic 
steroids, HTN who was referred from clinic with leukocytosis, 
found to have NSTEMI.

#NSTEMI:
EKG was concerning find for NSTEMI with STD in 1, AVL, biphasic 
ST segments in V1-V2, and TWI in V3-V4 as well as isolated <1 mm 
STE in III. Trop on admission 0.30, CKMB 3. Concerning for 
resolving ST elevation MI. TTE revealed normal biventricular 
cavity sizes with preserved regional and global biventricular 
systolic function with mild pulmonary artery systolic 
hypertension. She was placed on heparin gtt, loaded with 
aspirin, started on atorvastatin 80 and metoprolol, uptitrated 
to 25BID. Leukocytosis was worked up as below and once 
infectious etiology was ruled out, she was taken for cath. Cath 
revealed 70% stenosis of ___ LED s/p DES, 80% stenosis of 
mid-RCA s/p DES, and occluded RPLV that did not get stent. She 
was started on Plavix.
[ ] Follow up with cardiology as outpatient.

#Leukocytosis
Ms. ___ is on chronic steroids but WBC of 30 is greater than 
baseline around 14. CXR negative for clear PNA. Does have foul 
smelling urine per family; no dysuria or frequency at this time. 
History of UTI in past. UA and UCx were negative. She had recent 
h/o diarrhea but this has resolved; no recent abx use. C. diff 
was not done because patient was not having diarrhea. Infectious 
disease was consulted and no further workup was required. CT 
chest/abdomen/pelvis was deferred given concern for high dye 
load with the cath. Heme/onc was consulted and recommended 
BCR-ABL add on and outpatient follow up.
[ ] Follow up final blood cultures (no growth to date).
[ ] Follow up as outpatient with heme/onc, Dr. ___.
[ ] Follow up on pending BCR-ABL.

#Elevated AST
AST was elevated to 231. ALT, alk phos, and T. bili were normal. 
Hepatitis serologies were negative. ALT downtrended to 121 at 
discharge with other LFTs remaining normal.
[ ] Hepatitis B vaccine.
[ ] Repeat LFTs as outpatient to ensure downtrending.

#Weakness
The patient was reported weak by caregivers, but herself reports 
no weakenss and is ___ on exam. ___ be ___ NSTEMI as an atypical 
presentation or NSTEMI vs. infectious or hematologic processes 
(leukocytosis discussed above). Unlikely polymyositis flare 
given CK of 29. ___ was consulted and recommended home following 
___ ___ visits
w/ home ___ and 24hr assist for mobility and ADLs.
[ ] Home ___.

#Polymyositis: continued home prednisone at 5 mg daily

#GERD: continued home omeprazole

#HFpEF: continued home Lasix 10 mg daily

#HTN: continued home amlodipine

#Shoulder pain: Currently reporting no shoulder pain. Continued 
home gabapentin, Tylenol. Of note, concern for avascular 
necrosis on CXR likely ___ steroid use.
[ ] Continue to manage shoulder pain and ?avascular necrosis as 
outpatient.

==================================
TRANSITIONAL ISSUES
==================================
[ ] Follow up with cardiology as outpatient.
[ ] Follow up final blood cultures (no growth to date).
[ ] Follow up as outpatient with heme/onc, Dr. ___.
[ ] Follow up on pending BCR-ABL.
[ ] Hepatitis B vaccine.
[ ] Repeat LFTs as outpatient to ensure downtrending.
[ ] Home ___.
[ ] Continue to manage shoulder pain and ?avascular necrosis as 
outpatient.
[ ] NEW MEDICATIONS: atorvastatin 80 mg, lisinopril 5 mg, 
metoprolol succinate 50 mg, clopidogrel 75 mg

# HCP: son ___ ___
# CONTACT: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. PredniSONE 5 mg PO DAILY 
2. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
3. Gabapentin 100 mg PO QHS:PRN pain 
4. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
5. amLODIPine 10 mg PO DAILY 
6. Furosemide 10 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Calcium Soft Chew (calcium-vitamin D3-vitamin K) 500-100-40 
mg-unit-mcg oral DAILY 
9. Aspirin 325 mg PO DAILY 
10. arnica 20 % topical DAILY:PRN 
11. menthol 5 % topical Other 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
6.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
7.  amLODIPine 10 mg PO DAILY  
8.  arnica 20 % topical DAILY:PRN  
9.  Calcium Soft Chew (calcium-vitamin D3-vitamin K) 500-100-40 
mg-unit-mcg oral DAILY  
10.  Furosemide 10 mg PO DAILY  
11.  Gabapentin 100 mg PO QHS:PRN pain  
12.  menthol 5 % topical Other  
13.  Omeprazole 20 mg PO DAILY  
14.  PredniSONE 5 mg PO DAILY  
15.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
Non-ST elevation myocardial infarction s/p DES x2
Leukocytosis

Secondary
Weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ because you had high 
heart enzymes and a high white blood cell count.

While you were here, your heart enzymes kept increasing and your 
EKG showed you might have some blockage to your heart arteries 
(heart attack). The ultrasound of your heart showed that you had 
normal pumping function of your heart. You were taken for a 
cardiac catheterization and they placed two stents to open up 
the arteries to your heart. You did well with the procedure. It 
is very important you take your aspirin and Plavix every day 
after this procedure.

You also had a high white blood cell count. Your urine cultures 
and blood cultures did not show any infection. The infectious 
disease specialists also did not think you had any infection. 
The blood doctors also saw ___ and ___ will see them in clinic 
to follow up on your blood tests.

Your appointments and medications are below.

It was a pleasure to take care of you!

Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___